US05393753
A solution of (2-bromoethyl)benzene (27.3 ml), sodium iodide (60.0 g), 1-acetylimidazole (22.2 g), and acetonitrile (220 ml) was refluxed 6.5 hrs. under nitrogen. The solution was cooled to 25° C. and the acetonitrile was evaporated. Water and potassium carbonate were added to the oily residue, which was extracted with dichloromethane. Combined extracts were washed with water, dried, filtered, and concentrated to give 1,3-bis(2-phenylethyl)-1H-imidazolium iodide (J, 35.4 g), m.p. 145.5°-147° C. from ethyl acetate.

reactant | (2-bromoethyl)benzene | 27.3 ml | BrCCC1=CC=CC=C1 | C8H9Br
reactant | sodium iodide | 60.0 g | [I-].[Na+]
reactant | 1-acetylimidazole | 22.2 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
solvent | acetonitrile | 220 ml | C(C)#N | C2H3N
product | 1,3-bis(2-phenylethyl)-1H-imidazolium iodide | 35.4 g | [I-].C1(=CC=CC=C1)CC[NH+]1CN(C=C1)CCC1=CC=CC=C1 | InChI=1S/C19H22N2.HI/c1-3-7-18(8-4-1)11-13-20-15-16-21(17-20)14-12-19-9-5-2-6-10-19;/h1-10,15-16H,11-14,17H2;1H
